US05362879
A mixture of methyl 2- (4,5-diphenyl-2-oxazolyl)-5-oxo-l-pyrrolidineoctanoate (3.60 g, 7.8 mmol) , LiOH.H2O (986 mg, 24 mmol), MeOH (60 mL) and H2O (10 mL) was stirred at room temperature. After about 45 minutes, the mixture was concentrated, diluted with 1N HCl solution and extracted with CH2Cl2. The combined extracts were dried over Na2SO4 and concentrated to leave an oil. Chromatography on a column of silica gel using a mixture of MeOH and CHCl3 (1:1) as eluent furnished 2-(4,5-diphenyl-2-oxazolyl) -5-oxo-1-pyrrolidineoctanoic acid (1.76 g, 50%). IR (Film) 3600-2400 (CO2H), 1725 (CO2H), 1695 (N.CO) cm-1 ; 1H NMR (CDCl3) δ1.20-1.65 (10H, m, CH2), 2.24 (2H, t, J=7.5 Hz, CH2CO2H), 2.30- 2.60 (3H, m, CH2 of ring), 2.75 (1H, m, CH2 of ring), 3.03 (1H, m, NCH2 of side chain), 3.60 (1H, quintuplet, J=7 Hz, NCH2 of side chain), 4.90 (1H, m, NCH of ring), 5.26 (0.3H, s, CH2Cl2), 7.30-7.45 (6H, m, aromatic H), 7.50-7.65 (4H, m, aromatic H), 9.87 (1H, bs, CO2H); MS m/z 447 (MH+).

reactant | methyl 2- (4,5-diphenyl-2-oxazolyl)-5-oxo-l-pyrrolidineoctanoate | 7.8 mmol, 3.60 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1N(C(CC1)=O)CCCCCCCC(=O)OC | C28H32N2O4
reactant | LiOH.H2O | 24 mmol, 986 mg | O[Li].O
reactant | H2O | 10 mL | O | H2O
solvent | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 60 mL | CO | CH4O
product | 2-(4,5-diphenyl-2-oxazolyl) -5-oxo-1-pyrrolidineoctanoic acid | 1.76 g, 50% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1N(C(CC1)=O)CCCCCCCC(=O)O | C27H30N2O4
